US07015218B1
4-(4-Morpholinopiperidin-1-yl)-3-trifluoromethylaniline
By the reaction and treatment in the same manner as in Starting Material Synthesis Example 40 using 4-chloro-3-trifluoromethylnitrobenzene and 4-morpholinopiperidine, the title compound was obtained, melting point: 118–120° C.

reactant | 4-chloro-3-trifluoromethylnitrobenzene | ClC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3ClF3NO2
reactant | 4-morpholinopiperidine | O1CCN(CC1)C1CCNCC1 | C9H18N2O
product | 4-(4-Morpholinopiperidin-1-yl)-3-trifluoromethylaniline | O1CCN(CC1)C1CCN(CC1)C1=C(C=C(N)C=C1)C(F)(F)F | C16H22F3N3O
